US06573289B1
Production of 1-[5-[1-(tert-Butyldimethylsilyloxy)ethyl]-6-methoxynaphthalen-2-yl]-1-(1H-imidazol-4-yl)-2-methyl-1-propanol
Production of [5-[1-(tert-Butyldimethylsilyloxy)-ethyl]-6-methoxynaphthalen-2-yl]-(1H-imidazol-4-yl)ketone. [5-[1-(tert-butyldimethylsilyloxy)ethyl]-6-methoxynaphthalen-2-yl]-(1-trityl-1H-imidazol-4-yl)ketone (5.18 g) and pyridine hydrochloride (1.59 g) were dissolved in methanol (50 ml). The solution was stirred at 50° C. for 1 h. The reaction mixture was concentrated, and water and ethyl acetate were added. The organic layer was washed with saturated aqueous solution of sodium hydrogencarbonate and saturated sodium chloride solution, dried and concentrated. The obtained residue was washed with ether to give the titled compound (2.71 g) as a colorless solid.

reactant | [5-[1-(tert-Butyldimethylsilyloxy)-ethyl]-6-methoxynaphthalen-2-yl]-(1H-imidazol-4-yl)ketone | [Si](C)(C)(C(C)(C)C)OC(C)C1=C2C=CC(=CC2=CC=C1OC)C(=O)C=1N=CNC1 | C23H30N2O3Si
reactant | [5-[1-(tert-butyldimethylsilyloxy)ethyl]-6-methoxynaphthalen-2-yl]-(1-trityl-1H-imidazol-4-yl)ketone | 5.18 g | [Si](C)(C)(C(C)(C)C)OC(C)C1=C2C=CC(=CC2=CC=C1OC)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C42H44N2O3Si
reactant | pyridine hydrochloride | 1.59 g | Cl.N1=CC=CC=C1
solvent | methanol | 50 ml | CO | CH4O
product | 1-[5-[1-(tert-Butyldimethylsilyloxy)ethyl]-6-methoxynaphthalen-2-yl]-1-(1H-imidazol-4-yl)-2-methyl-1-propanol | 2.71 g | [Si](C)(C)(C(C)(C)C)OC(C)C1=C2C=CC(=CC2=CC=C1OC)C(C(C)C)(O)C=1N=CNC1 | C26H38N2O3Si
